US03966766
Treat ethylenediamine with p-toluenesulfonyl chloride (i.e. tosyl chloride) and sodium hydroxide in aqueous ether according to known procedures to obtain N,N'-ditosylethylenediamine.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
product | N,N'-ditosylethylenediamine | S(=O)(=O)(C1=CC=C(C)C=C1)NCCNS(=O)(=O)C1=CC=C(C)C=C1 | C16H20N2O4S2
